US04347378
Carboethoxymethyl hydrocinnamate
33.7 g (0.2 mole) of hydrocinnamoyl chloride was added to a stirred solution of 18 g (0.2 mole) of ethyl glycolate in 20 ml of pyridine. The precipitated pyridine hydrochloride was filtered, washed with benzene, and discarded. The benzene solution of carboethoxymethyl hydrocinnamate was water washed, dried over sodium sulfate, and the solvent stripped off using a rotary evaporator. The yield of product was essentially quantitative. Its structure was established by infrared and nuclear magnetic resonance spectroscopy. It had nD30 1.4900 and d430 1.0919.

reactant | hydrocinnamoyl chloride | 0.2 mole, 33.7 g | C(CCC1=CC=CC=C1)(=O)Cl | C9H9ClO
reactant | ethyl glycolate | 0.2 mole, 18 g | C(CO)(=O)OCC | C4H8O3
solvent | pyridine | 20 ml | N1=CC=CC=C1 | C5H5N
product | Carboethoxymethyl hydrocinnamate | C(CCC1=CC=CC=C1)(=O)OCC(=O)OCC | C13H16O4
